US08110687B2
Step 1: 4-(aminomethyl)-3-(trifluoromethyl)aniline
To a solution of 4-amino-2-(trifluoromethyl)benzonitrile (5.0 g, 26.7 mmol) in 7.0 M ammonia in MeOH (20.0 mL) was added Raney Nickel 2800 (50% slurry in water, 320 mg). The mixture was allowed to stir under an atmosphere of hydrogen for 18 h, then at 50 psi for 18 h. The mixture was diluted with DCM and filtered through Celite. The filtrate was evaporated and the residue was purified by column chromatography on silica to 4-(aminomethyl)-3-(trifluoro-methyl)aniline as an orange solid (3.43 g, 67%). LCMS: (FA) ES+ 187.1 ES− 185.2.

reactant | 4-amino-2-(trifluoromethyl)benzonitrile | 26.7 mmol, 5.0 g | NC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H5F3N2
solvent | ammonia | 7.0 M | N | H3N
solvent | MeOH | 20.0 mL | CO | CH4O
catalyst | Raney Nickel | 320 mg | [Ni] | Ni
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-(aminomethyl)-3-(trifluoromethyl)aniline | NCC1=C(C=C(N)C=C1)C(F)(F)F | C8H9F3N2
